US05852016
N-(6,7-Dichloro-2,3-dimethoxyquinoxalin-5-yl)ethanesulphonamide
The title compound was prepared by the method of Preparation 3 (a) and (b) using ethanesulphonic anhydride [J Am Chem Soc, 76, 1222 (1954)] and 5-amino-6,7-dichloro-2,3-dimethoxyquinoxaline, and was obtained as a pale yellow solid (47% yield), m.p. 174°-176° C.

reactant | ethanesulphonic anhydride | C(C)S(=O)(=O)OS(=O)(=O)CC | C4H10O5S2
reactant | 5-amino-6,7-dichloro-2,3-dimethoxyquinoxaline | NC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C10H9Cl2N3O2
product | N-(6,7-Dichloro-2,3-dimethoxyquinoxalin-5-yl)ethanesulphonamide | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)NS(=O)(=O)CC | C12H13Cl2N3O4S
